US09023840B2
Step 1: 5-chloro-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide
N,N-Diisopropylethylamine (1.3 mL, 7.5 mmol) was added to a mixture of 5-chloropyrazine-2-carboxylic acid (0.40 g, 2.5 mmol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (1.0 g, 2.8 mmol) and (1S)-1-cyclopropyl-2,2,2-trifluoroethanamine hydrochloride (0.44 g, 2.5 mmol) (ASIBA Pharmatech, Cat. #: 70092-HCl) in methylene chloride (10 mL). The reaction mixture was stirred at room temperature overnight. The mixture was worked up with saturated aqueous NaHCO3, and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-20%) to afford the desired product (0.51 g, 72%). LCMS (M+H)+: m/z=280.0/282.0.

reactant | N,N-Diisopropylethylamine | 7.5 mmol, 1.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-chloropyrazine-2-carboxylic acid | 2.5 mmol, 0.40 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 2.8 mmol, 1.0 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | (1S)-1-cyclopropyl-2,2,2-trifluoroethanamine hydrochloride | 2.5 mmol, 0.44 g | Cl.C1(CC1)[C@@H](C(F)(F)F)N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-[(1S)-1-cyclopropyl-2,2,2-trifluoroethyl]pyrazine-2-carboxamide | 0.51 g, 72% | ClC=1N=CC(=NC1)C(=O)N[C@H](C(F)(F)F)C1CC1 | C10H9ClF3N3O
